US07691877B2
4-amino-1-benzyl-2-oxo-2,3-dihydro-1H-imidazo[4,5,c]pyridine-7-carboxylic acid cyclopropylmethyl-amide
1-benzyl-4-dibenzylamino-2-oxo-2,3-dihydro-1H-imidazo[4,5,c]pyridine-7-carboxylic acid cyclopropylmethyl-amide (10 mg, 0.02 mmol) was dissolved in 1 mL of concentrated sulphuric acid and the mixture was stirred at room temperature for 30 minutes. Once completed, the mixture was diluted in 5 mL of water and potassium carbonate was added portion wise until pH˜12. The mixture was then extracted with ethyl acetate (2×50 mL). The organic layers were combined, dried over MgSO4 and the solvent removed in vacuo. The residue was purified by column chromatography on silica gel using 20% of methanol in ethyl acetate to give 1 mg of the title compound.

reactant | 1-benzyl-4-dibenzylamino-2-oxo-2,3-dihydro-1H-imidazo[4,5,c]pyridine-7-carboxylic acid cyclopropylmethyl-amide | 0.02 mmol, 10 mg | C1(CC1)CNC(=O)C=1C2=C(C(=NC1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)NC(N2CC2=CC=CC=C2)=O | C32H31N5O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | sulphuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | 5 mL | O | H2O
product | 4-amino-1-benzyl-2-oxo-2,3-dihydro-1H-imidazo[4,5,c]pyridine-7-carboxylic acid cyclopropylmethyl-amide | 1 mg | C1(CC1)CNC(=O)C=1C2=C(C(=NC1)N)NC(N2CC2=CC=CC=C2)=O | C18H19N5O2
